US05006548
Preparation of 2-[3-(3-thienyl)acrylamido]benzoic acid (Compound 1) (Process c)
To 2-[2-(3-thienyl)vinyl]-4H-3,1-benzoxazine-4-one (800 mg, 3.13 mmol) was added 1N-NaOH (21.9 ml) and the mixture was heated to 70° C. After adding methanol (30 ml), and the mixture was reacted for 1 hour. The methanol was removed from the reaction mixture under reduced pressure, and the residue was acidified with 10% HCl under cooling (pH about 4) to give a white solid, which was collected on a filter, washed with water, and dried to give the title compound (826 mg, yield, 96%). m.p., 218°-219° C.

reactant | 2-[2-(3-thienyl)vinyl]-4H-3,1-benzoxazine-4-one | 3.13 mmol, 800 mg | S1C=C(C=C1)C=CC1=NC2=C(C(O1)=O)C=CC=C2 | C14H9NO2S
reactant | NaOH | 21.9 ml | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 2-[3-(3-thienyl)acrylamido]benzoic acid | 826 mg, 96% | S1C=C(C=C1)C=CC(=O)NC1=C(C(=O)O)C=CC=C1 | C14H11NO3S
